US06177452B1
Methyl 2-chloro-4-(4-chlorophenyl)-5-oxazolepropionate (1.50 g) and 2-propylimidazole (0.66 g) were dissolved in N,N-dimethylformamide (10 ml), and sodium hydride (60% dispersion in oil, 0.30 g) was gradually added to the resulting solution at room temperature. After this was stirred at room temperature for 3.5 hours, an aqueous solution of 2 N sodium hydroxide (50 ml) was added thereto and stirred for an additional 30 minutes. Water was added to the reaction mixture, and the pH was then adjusted to 6 with 2 N hydrochloric acid. The crystals thus precipitated were collected by filtration, and recrystallized from ethanol to obtain 4-(4-chlorophenyl)-2-(2-propyl-1-imidazolyl)-5-oxazolepropionic acid (1.25 g, 69%) as pale brown needles. mp 174-175° C.

reactant | Methyl 2-chloro-4-(4-chlorophenyl)-5-oxazolepropionate | 1.50 g | ClC=1OC(=C(N1)C1=CC=C(C=C1)Cl)CCC(=O)OC | C13H11Cl2NO3
reactant | 2-propylimidazole | 0.66 g | C(CC)C=1NC=CN1 | C6H10N2
reactant | sodium hydride | 0.30 g | [H-].[Na+]
reactant | sodium hydroxide | 2 N, 50 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | 4-(4-chlorophenyl)-2-(2-propyl-1-imidazolyl)-5-oxazolepropionic acid | 1.25 g, 69% | ClC1=CC=C(C=C1)C=1N=C(OC1CCC(=O)O)N1C(=NC=C1)CCC | C18H18ClN3O3
